*----------------------------------------------------------------------
* PSPICE Model generated by PyAEDT
* Property : C = 0.22 [uF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz - 6GHz
*   Temperature = -55 degC - 125 degC
*   DC Bias Voltage = 0V - 100V
*   Small Signal Operation
*----------------------------------------------------------------------
* Encrypted Netlist
*----------------------------------------------------------------------
.subckt GRM1234 Port1 Port2 PARAMS: temperature=25
    C1 Port1 Port2 1e-12
.ends

.subckt GRM2345 Port1 Port2
    C1 Port1 Port2 1e-12
.ends